US07692005B2
The PARR apparatus was charged with was charged with 5-(3-Nitro-benzoyl)-1,3-dihydro-indol-2-one (50 g, 0.18 mol), 10% Pd/C (5 g) and DMF (500 mL). The reactor was evacuated, purged with N2(g) then filled with H2(g) (60 psi) at room temperature. After hydrogenating at 60 psi for 45 min thin layer choromatographic analysis (TLC) (Hexanes/EtOAc 1:1) indicated that the reaction had caused the reduction of the nitro group to an amine and the reduction of the keto group to the alcohol. Subsequently, TFA 926 mL, 0.35 mol) was added and the reaction was continued for 4 h. The reaction was filtered though celite and the solvet from the filtrate was removed in vacuo. The solids obtained were washed with saturated NaHCO3(aq) (500 mL), and H2O (500 mL) then triturated with Metyl Ether (500 mL) and then triturated again with methanol to afford 5-(3-Amino-benzyl)-1,3-dihydro-indol-2-one (30 g, 67%).

reactant | 5-(3-Nitro-benzoyl)-1,3-dihydro-indol-2-one | 0.18 mol, 50 g | [N+](=O)([O-])C=1C=C(C(=O)C=2C=C3CC(NC3=CC2)=O)C=CC1 | C15H10N2O4
reactant | TFA | 0.35 mol, 926 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd/C | 5 g | [Pd] | Pd
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 5-(3-Amino-benzyl)-1,3-dihydro-indol-2-one | 30 g, 67% | NC=1C=C(CC=2C=C3CC(NC3=CC2)=O)C=CC1 | C15H14N2O
